US09371333B2
3-Amino-1-(3-bromo-4,5-dimethoxy-phenyl)-1H-4-oxa-5-aza-phenanthrene-2-carbonitrile (33)
8-Hydroxychinoline (14.5 g, 100 mmol), 5-bromo-3,4-dimethoxy-benzaldehyde (20.4 g, 83.33 mmol) and malononitrile (5.5 g, 83.33 mmol) were taken in 250 ml ethanol at room temperature, charged with DABCO (917 μl, 8.33 mmol) and then stirred at 80° C. under LC-MS control for 18 days. The reaction mixture was cooled down to room temperature, diluted with water to about 500 ml and extracted with ethyl acetate (2×100 ml). The ethyl acetate solution was washed with 5% sodium bicarbonate solution (2×100 ml), dried over magnesium sulfate, solvent was then evaporated under vacuum at 40° C. and the solids were dried under high vacuum to yield 22.5 g (61.6%) of the title compound.

reactant | 8-Hydroxychinoline | 100 mmol, 14.5 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | 5-bromo-3,4-dimethoxy-benzaldehyde | 83.33 mmol, 20.4 g | BrC=1C(=C(C=C(C=O)C1)OC)OC | C9H9BrO3
reactant | malononitrile | 83.33 mmol, 5.5 g | C(CC#N)#N | C3H2N2
reactant | DABCO | 8.33 mmol, 917 μl | C1CN2CCN1CC2 | C6H12N2
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-Amino-1-(3-bromo-4,5-dimethoxy-phenyl)-1H-4-oxa-5-aza-phenanthrene-2-carbonitrile | 22.5 g, 61.6% | NC1=C(C(C=2C=CC3=CC=CN=C3C2O1)C1=CC(=C(C(=C1)OC)OC)Br)C#N | C21H16BrN3O3
